US07214715B2
4-Aminomethyl-3,5-dimethylisoxazole (VI)
4-Chloromethyl-3,5-dimethylisoxazole (700 mg, 4.8 mmol) is suspended in concentrated aqueous ammonia at 20–25 degrees C., and vigorously stirred overnight. The reaction mixture is extracted with isopropyl alcohol/chloroform (10/90, 2×). The combined organic phases are concentrated under nitrogen flow. The residue is purified by flash chromatography methanol/methylene chloride (5–20%, 1% triethylamine) to give the title compound, MR (CDCl3, 300 MHz) delta3.62, 2.37, 2.29, and 1.44.

reactant | 4-Chloromethyl-3,5-dimethylisoxazole | 4.8 mmol, 700 mg | ClCC=1C(=NOC1C)C | C6H8ClNO
reactant | ammonia | N | H3N
product | 4-Aminomethyl-3,5-dimethylisoxazole | NCC=1C(=NOC1C)C | C6H10N2O
